US04518415
A solution of methyl 4-(4-chlorophenyl)pent-4-enoate (5.5 g) in dry diethyl ether (20 ml) was added dropwise over 10 minutes to a stirred suspension of lithium aluminium hydride (1.9 g) in dry diethyl ether (130 ml), cooled in an ice-water bath and under an atmosphere of nitrogen. Following the addition, the cooling bath was removed and the reaction mixture was stirred for 1 hour at room temperature and then diluted with aqueous ammonium chloride. The mixture was extracted with diethyl ether, and the extracts were washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(4-chlorophenyl)pent-4-en-1-ol (4.5 g, 93%) as a pale yellow oil, IR (film): 3400 cm-1.

reactant | methyl 4-(4-chlorophenyl)pent-4-enoate | 5.5 g | ClC1=CC=C(C=C1)C(CCC(=O)OC)=C | C12H13ClO2
reactant | lithium aluminium hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 130 ml | C(C)OCC | C4H10O
product | 4-(4-chlorophenyl)pent-4-en-1-ol | 4.5 g, 93% | ClC1=CC=C(C=C1)C(CCCO)=C | C11H13ClO
